US07244725B2
B. Step 1. N-[(1S,2R)-3-{[(4-Acetyl-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide hydrochloride
To N-[(1S,2R)-3-{[(4-bromo-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide (120 mg, 0.24 mmol) in toluene (1 mL) was added tributyl(1-ethoxyvinyl)tin (100 μL, 0.28 mmol) and bis-triphenylphoshine palladium(II) dichloride (10 mg, 0.012 mmol), and the reaction was heated at 100° C. 3 h under N2. The solution was cooled to room temperature, 1 N hydrochloric acid (1 mL) was added, and the mixture was stirred 20 min. The mixture was partitioned, and the organics were washed with saturated potassium fluoride (aq). The reaction mixture was dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 8% methanol/methylene chloride) provided an oil. The residue was dissolved in ether, precipitated with excess 1N HCl in ether, and concentrated to provide the title compound (11 mg). ESI MS m/z 467.28 [M+H]+.

reactant | N-[(1S,2R)-3-{[(4-bromo-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide | 0.24 mmol, 120 mg | BrC1=CC(=C(C=C1)C1=CC=CC=C1)CNC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C25H25BrF2N2O2
reactant | tributyl(1-ethoxyvinyl)tin | 0.28 mmol, 100 μL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | hydrochloric acid | 1 N, 1 mL | Cl | ClH
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[(1S,2R)-3-{[(4-Acetyl-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide hydrochloride | 11 mg | Cl.C(C)(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)CNC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | InChI=1S/C27H28F2N2O3.ClH/c1-17(32)21-8-9-25(20-6-4-3-5-7-20)22(13-21)15-30-16-27(34)26(31-18(2)33)12-19-10-23(28)14-24(29)11-19;/h3-11,13-14,26-27,30,34H,12,15-16H2,1-2H3,(H,31,33);1H/t26-,27+;/m0./s1
